US04954518
24 ml of a 1N aqueous sodium hydroxide solution was added to 1.2 g of methyl trans-3-[4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenoxy]acrylate. The mixture was stirred for 1 hour at 20°-25° C. 30 ml of ethyl acetate was added thereto. The resulting mixture was adjusted to pH 4 with 4N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 1.0 g (yield: 87.0%) of oily trans-3-[4-(2,4-difluorophenoxy)-3methylsulfonylaminophenoxy]acrylic acid.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methyl trans-3-[4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenoxy]acrylate | 1.2 g | FC1=C(OC2=C(C=C(O/C=C/C(=O)OC)C=C2)NS(=O)(=O)C)C=CC(=C1)F | C17H15F2NO6S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | trans-3-[4-(2,4-difluorophenoxy)-3methylsulfonylaminophenoxy]acrylic acid | 1.0 g, yield: 87.0% | FC1=C(OC2=C(C=C(O/C=C/C(=O)O)C=C2)NS(=O)(=O)C)C=CC(=C1)F | C16H13F2NO6S
